US06617339B1
5(R)-hydroxymethyl-3-(3-fluoro-4-(4-t-butoxycarbonylpiperazin-1-yl)phenyl)oxazolidin-2-one (International Patent Application Publication WO 93/23384. 43.1 g, 0.11 M) was suspended by stirring in ethanol (1000 ml) under nitrogen. An ethanol solution of hydrogen chloride (3.8 M, 400 ml) was added slowly, and the mixture was stirred at ambient temperature for 18 hours. The resulting precipitate was filtered, washed with diethyl ether (3×250 ml), and dried, to give 5(R)-hydroxymethyl-3-(3-fluoro-4-(piperazin-1-yl)phenyl)oxazolidin-2-one hydrochloride. A further crop was obtained by evaporation of the mother liquors to give a total yield of 38.7 g.

reactant | 5(R)-hydroxymethyl-3-(3-fluoro-4-(4-t-butoxycarbonylpiperazin-1-yl)phenyl)oxazolidin-2-one | 0.11 M, 43.1 g | OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)F | C19H26FN3O5
reactant | hydrogen chloride | 3.8 M, 400 ml | Cl | ClH
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 5(R)-hydroxymethyl-3-(3-fluoro-4-(piperazin-1-yl)phenyl)oxazolidin-2-one hydrochloride | Cl.OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCNCC1)F | InChI=1S/C14H18FN3O3.ClH/c15-12-7-10(18-8-11(9-19)21-14(18)20)1-2-13(12)17-5-3-16-4-6-17;/h1-2,7,11,16,19H,3-6,8-9H2;1H/t11-;/m1./s1
